US07285550B2
(b) 7-Furan-2-yl-N2-[1-(5-methyl-isoxazol-3-ylmethyl)-pyrrolidin-2-ylmethyl]-pyrazolo[1,5-a][1,3,5]triazine-2,4-diamine
3-Chloromethyl-5-methyl-isoxazole (1.5 eq.) was directly added to a solution of 7-furan-2-yl-N2-pyrrolidin-2-ylmethyl-pyrazolo[1,5-a][1,3,5]triazine-2,4-diamine (0.14 mmol) and Et3N (0.3 mmol) in 3 mL of CH3CN. The resulting reaction mixture was stirred at room temp for 18 hours. It was then concentrated and purified by preparative HPLC using a mixture of aqueous CH3CN that has been buffered with 0.1% TFA. 1H NMR (DMSO-d6) δ 7.60 (d, J=1.0 Hz, 1H), 7.28 (br s, 2H), 7.22 (d, J=3.6 Hz, 1H), 6.68 (dd, J=3.6 Hz, 1.0 Hz, 1H), 6.3 (s, 1H) 3.8 (br s, 2H), 2.2-3.2 (m, 8H), 1.6 (br s, 3 H). MS: m/z: 395 [M+H]+.

reactant | 3-Chloromethyl-5-methyl-isoxazole | 1.5 eq. | ClCC1=NOC(=C1)C | C5H6ClNO
reactant | 7-furan-2-yl-N2-pyrrolidin-2-ylmethyl-pyrazolo[1,5-a][1,3,5]triazine-2,4-diamine | 0.14 mmol | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)NCC2NCCC2)=C1 | C14H17N7O
reactant | Et3N | 0.3 mmol | CCN(CC)CC | C6H15N
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | 7-Furan-2-yl-N2-[1-(5-methyl-isoxazol-3-ylmethyl)-pyrrolidin-2-ylmethyl]-pyrazolo[1,5-a][1,3,5]triazine-2,4-diamine | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)NCC2N(CCC2)CC2=NOC(=C2)C)=C1 | C19H22N8O2
